US07714126B2
With a procedure similar to example 16 above, 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {6-[ethyl-(2-methoxy-ethyl)-amino]-pyridin-3-yl}-amide was prepared from 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid and N2-ethyl-N2-(2-methoxy-ethyl)-pyridine-2,5-diamine. LCMS calcd for C21H21F3N4O3 (m/e) 434, obsd 435 (M+H).

reactant | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid | C1(=CC=CC=C1)C=1OC(=C(N1)C(=O)O)C(F)(F)F | C11H6F3NO3
reactant | N2-ethyl-N2-(2-methoxy-ethyl)-pyridine-2,5-diamine | C(C)N(C1=NC=C(C=C1)N)CCOC | C10H17N3O
product | 2-phenyl-5-trifluoromethyl-oxazole-4-carboxylic acid {6-[ethyl-(2-methoxy-ethyl)-amino]-pyridin-3-yl}-amide | C(C)N(C1=CC=C(C=N1)NC(=O)C=1N=C(OC1C(F)(F)F)C1=CC=CC=C1)CCOC | C21H21F3N4O3
